US08058299B2
To a solution of 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (0.25 g, 1 mmol) and bromo-tris-pyrrolidino-phosphonium hexafluorophosphate (0.47 g, 1 mmol) in methylene chloride was added racemic trans-2-(4′-amino-biphenyl-4-carbonyl)-cyclopentanecarboxylic acid (0.20 g, 0.78 mmol) and diisopropylethylamine (0.35 mL, 2 mmol). The mixture was stirred at ambient temperature for 3 h. The reaction mixture was concentrated and the residue was re-dissolved in DMSO and acetonitrile. HPLC reverse phase purification with acetonitrile and water afforded 44 mg of racemic trans-2-{4′-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-biphenyl-4-carbonyl}-cyclopentanecarboxylic acid as a white solid. LCMS calcd for C30H23F3N2O5 (m/e) 548, obsd 549 (M+H).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | 1 mmol, 0.25 g | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | bromo-tris-pyrrolidino-phosphonium hexafluorophosphate | 1 mmol, 0.47 g | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | racemic trans-2-(4′-amino-biphenyl-4-carbonyl)-cyclopentanecarboxylic acid | 0.78 mmol, 0.20 g | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)[C@H]1[C@@H](CCC1)C(=O)O | C19H19NO3
reactant | diisopropylethylamine | 2 mmol, 0.35 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | racemic trans-2-{4′-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-biphenyl-4-carbonyl}-cyclopentanecarboxylic acid | 44 mg | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)NC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)[C@H]1[C@@H](CCC1)C(=O)O)C(F)(F)F | C30H23F3N2O5
